US07566735B2
N-[(4-bromophenyl)methyl]-1-pyrrolidinecarboxamide
A solution of 4-bromobenzylisocyanate (408 mg, 1.92 mmol) in acetonitrile (15 ml) was treated with triethylamine (390 mg, 3.86 mmol) followed by pyrrolidine (137 mg, 1.93 mmol) at room temperature with stirring under argon. The reaction was stirred at 20° C. for 30 minutes and then partitioned between ethyl acetate (10 ml) and water (20 ml). The organic layer was dried over sodium sulphate and evaporated under reduced pressure to give the title compound as a colourless solid (542 mg, 99%).

reactant | 4-bromobenzylisocyanate | 1.92 mmol, 408 mg | BrC1=CC=C(CN=C=O)C=C1 | C8H6BrNO
reactant | triethylamine | 3.86 mmol, 390 mg | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 1.93 mmol, 137 mg | N1CCCC1 | C4H9N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | N-[(4-bromophenyl)methyl]-1-pyrrolidinecarboxamide | 542 mg, 99% | BrC1=CC=C(C=C1)CNC(=O)N1CCCC1 | C12H15BrN2O
